US08461134B2
2-(5-Amino-2-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)phenyl)-N-cyclopropylacetamide
To the mixture of 2-(5-amino-2-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)phenyl)acetic acid (500 mg, 1.4 mmol) and cyclopropyl amine (0.5 ml, 7 mmol) in DMF (5 ml), added PyBOP (730 mg, 1.4 mmol) then triethyl amine (0.4 ml, 3 mmol). Stirring was kept for 3 hours. Diluted with EtOAc, washed with 1N HCl, water and brine. Dried over anhydrous sodium sulfate. Concentrated, the residue was dissolved in DMSO and purified by prep HPLC (SunFire Prep C18 OBD 5 uM 30×50 mm column). The title compound was obtained as white powder. MS calcd for (C18H20BN3O5S): 401.12. MS found (ESI negative): (M−H)−=400.1. 1H NMR (400 MHz, DMSO-d6) δ (ppm): 9.84 (s, 1H), 8.14 (d, J=4 Hz, 1H), 7.43 (s, 1H), 7.42 (d, J=8.8 Hz, 1H), 7.24 (d, J=8.4 Hz, 1H), 7.11 (dd, J=8.4 Hz, 1H), 6.43 (d, J=2 Hz, 1H), 6.36 (dd, J=8.4 Hz, 1H), 4.88 (s, 2H), 3.74 (s, 2H), 2.67 (m, 1H), 0.64 (m, 2H), 0.44 (m, 2H).

reactant | 2-(5-amino-2-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)phenyl)acetic acid | 1.4 mmol, 500 mg | NC=1C=CC(=C(C1)CC(=O)O)S(NC=1C=CC2=C(B(OC2)O)C1)(=O)=O | C15H15BN2O6S
reactant | cyclopropyl amine | 7 mmol, 0.5 ml | C1(CC1)N | C3H7N
reactant | PyBOP | 1.4 mmol, 730 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | triethyl amine | 3 mmol, 0.4 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(5-Amino-2-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)phenyl)-N-cyclopropylacetamide | NC=1C=CC(=C(C1)CC(=O)NC1CC1)S(NC=1C=CC2=C(B(OC2)O)C1)(=O)=O | C18H20BN3O5S
